### PR TITLE
Add-carry optimization proof

### PR DESCRIPTION
**Pull request by JasonGross**
This is on top of #170 

It proves the transformation described in #171 correct on `Z` (the transformation is not yet implemented reflectively)

### CODE REVIEW

File: src/Util/ZUtil/AddGetCarry.v [hunk 1]
```diff
@@ -0,0 +1,52 @@
...
+      { rewrite Z.pow_neg_r by assumption.
+        autorewrite with zsimplify.
+        reflexivity. }
+      { f_equal.
+        { push_Zmod; reflexivity. }
+        { Z.div_mod_to_quot_rem; nia. } }
+      { subst; autorewrite with zsimplify; reflexivity. }
+    Qed.
+
+    Lemma add_get_carry_to_add_with_get_carry_cps {T} c a b (P : Z -> Z -> T)
```
Comment (andres-erbsen) [inline src/Util/ZUtil/AddGetCarry.v]: @jadephilipoom is this transformation sufficient to turn two-row columnwise compact into a row compact?

Comment (JasonGross) [inline src/Util/ZUtil/AddGetCarry.v]: This should be sufficient to handle the transformation requested in #171.  If it turns out to be not sufficient for that, I'll figure out how to fix it.  Shall we merge this and continue the discussion of sufficiency on #171?

Comment (andres-erbsen) [inline src/Util/ZUtil/AddGetCarry.v]: sgtm

File: src/Util/ZUtil/AddGetCarry.v [hunk 2]
```diff
@@ -0,0 +1,52 @@
...
+    Context (bitwidth : Z).
+
+    Local Notation ADD := (Z.add_get_carry bitwidth).
+    Local Notation ADC := (Z.add_with_get_carry bitwidth).
+
+    Local Arguments Z.pow : simpl never.
+
+    Lemma add_get_carry_to_add_with_get_carry_cps_gen {T} c a b (P : Z -> Z -> Z -> Z -> Z -> T)
+      : (let '(a', c1) := ADD c a in
+         let '(s, c2) := ADD a' b in
```
Comment (jadephilipoom) [inline src/Util/ZUtil/AddGetCarry.v]: In the current code, I don't use destructing `let`s, I use `fst` and `snd`. The lemma should probably be stated in this form if it's going to be used directly.

Comment (JasonGross) [inline src/Util/ZUtil/AddGetCarry.v]: The lemma will not be used directly, but will be used to prove the reflective transformation.  The reflective machinery converts all `let`s to destructuring `lets` (and correspondingly unfolds `fst` and `snd`).  As long as you let-bind the results rather than duplicating them, this will be fine.

Comment (jadephilipoom) [inline src/Util/ZUtil/AddGetCarry.v]: Okay. In that case, everything looks good to me.
